US08426441B2
To 6-Bromo-imidazo[1,2-a]pyridin-8-ylamine (1.045 g, 4.93 mmol) in THF (100 mL) was added diisopropylethylamine (1.7 mL, 2.5 eq), and the resulting mixture was cooled to 0° C. With stirring, a solution of 20% phosgene in toluene (3.11 mL, 1.2 eq) was added and the resulting mixture was stirred at 0° C. for 20 minutes. Next, a 2.0M solution of methylamine in THF (24.6 mL, 10 eq) was added and the resulting mixture was stirred from 0° C. to room temperature overnight. Then next day, the solvent was removed under reduced pressure at 55° C., and ethyl acetate (175 mL) and water (50 mL) were added. The resulting mixture was stirred vigorously for 10 minutes and then the layers were separated. The organic layer was dried over magnesium sulfate, filtered and concentrated to give 1-(6-Bromo-imidazo[1,2-a]pyridin-8-yl)-3-methyl-urea as an off-white foamy powder (1.074 g).

reactant | 6-Bromo-imidazo[1,2-a]pyridin-8-ylamine | 4.93 mmol, 1.045 g | BrC=1C=C(C=2N(C1)C=CN2)N | C7H6BrN3
reactant | diisopropylethylamine | 1.7 mL, 2.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 3.11 mL, 1.2 eq | C1(=CC=CC=C1)C | C7H8
reactant | methylamine | CN | CH5N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 24.6 mL, 10 eq | C1CCOC1 | C4H8O
product | 1-(6-Bromo-imidazo[1,2-a]pyridin-8-yl)-3-methyl-urea | 1.074 g | BrC=1C=C(C=2N(C1)C=CN2)NC(=O)NC | C9H9BrN4O
